US05665718
64.7 g (258 mmol) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile were heated to reflux for 2.5 hours with 52.8 g (497 mmol) of sodium carbonate and 42.36 g (608 mmol) of hydroxylamine hydrochloride in 1.5 l of alcohol and 300 ml of water. The alcohol was evaporated and the suspension obtained was cooled to 0°. The crystals were filtered off under suction, washed with water and dried. There were obtained 68.5 g (93%) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime of decomposition point 216°.

reactant | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile | 258 mmol, 64.7 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C#N)CC2 | C14H10N4O
reactant | sodium carbonate | 497 mmol, 52.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 608 mmol, 42.36 g | Cl.NO
solvent | water | 300 ml | O | H2O
product | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 68.5 g, 93% | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(N)=NO)CC2 | C14H13N5O2
